US08486996B2
2-(2,5-dimethoxybenzoyl)-3-hydroxybenzofuran
A solution of sodium methoxide (0.04 g, 0.67 mmol) in methanol was added to a solution of methyl 2-(2,5-dimethoxybenzoylmethoxy)-benzoate (0.20 g, 0.60 mmol) in dry methanol (20 ml) at 0° C. The reaction mixture was stirred at room temperature for 5 h. The reaction mixture was concentrated under reduced pressure and water was added, then extracted with ethyl acetate (three timer 30 ml). The organic layer was wahed with water, dried over sodium sulfate and evaporated under reduced pressure. The residue was purified by silica gel column chromatography eluting with a gradient from 12% to 20% ethyl acetate in hexane to get the title product, m.p. 158° C. 1H-NMR (CDCl3, 400 MHz): 3.81 (s 3H), 3.83 (s, 3H), 6.99 (d, 1H), 7.07 (dd, 1H), 7.19 (d, 1H), 7.28 (d, 1H) 7.37 (d, 1H), 7.50 (t, 1H), 7.80 (d 1H).

reactant | sodium methoxide | 0.67 mmol, 0.04 g | C[O-].[Na+]
reactant | methyl 2-(2,5-dimethoxybenzoylmethoxy)-benzoate | 0.60 mmol, 0.20 g | COC1=C(C(=O)COC2=C(C(=O)OC)C=CC=C2)C=C(C=C1)OC | C18H18O6
solvent | methanol | CO | CH4O
solvent | methanol | 20 ml | CO | CH4O
product | 2-(2,5-dimethoxybenzoyl)-3-hydroxybenzofuran | COC1=C(C(=O)C=2OC3=C(C2O)C=CC=C3)C=C(C=C1)OC | C17H14O5
